US07897597B2
A modification of the general method described in Part A of Example 46 was followed using 6-benzyloxy-4-chloro-3-nitroquinoline (10.5 g, 34 mmol), prepared as described in Parts A-D of Example 57, in lieu of 7-benzyloxy-4-chloro-3-nitroquinoline and 5-amino-1-pentanol (3.5 g, 34 mmol) in lieu of 2-phenoxyethylamine. The reaction was heated at reflux for two hours and then allowed to cool to ambient temperature slowly and stirred overnight. An analysis by TLC indicated the presence of starting material, and additional 5-amino-1-pentanol (0.2 equivalent) was added. The reaction was heated at reflux until the reaction was complete as indicated by TLC. Following the work-up, the crude product was purified by column chromatography on silica gel (eluting with 95:5-dichloromethane:methanol) to provide 5.95 g of 5-{[6-(benzyloxy)-3-nitroquinolin-4-yl]amino}pentan-1-ol as a yellow solid.

reactant | 6-benzyloxy-4-chloro-3-nitroquinoline | 34 mmol, 10.5 g | C(C1=CC=CC=C1)OC=1C=C2C(=C(C=NC2=CC1)[N+](=O)[O-])Cl | C16H11ClN2O3
reactant | 7-benzyloxy-4-chloro-3-nitroquinoline | C(C1=CC=CC=C1)OC1=CC=C2C(=C(C=NC2=C1)[N+](=O)[O-])Cl | C16H11ClN2O3
reactant | 5-amino-1-pentanol | 34 mmol, 3.5 g | NCCCCCO | C5H13NO
reactant | 2-phenoxyethylamine | O(C1=CC=CC=C1)CCN | C8H11NO
reactant | 5-amino-1-pentanol | 0.2 equivalent | NCCCCCO | C5H13NO
product | 5-{[6-(benzyloxy)-3-nitroquinolin-4-yl]amino}pentan-1-ol | 5.95 g | C(C1=CC=CC=C1)OC=1C=C2C(=C(C=NC2=CC1)[N+](=O)[O-])NCCCCCO | C21H23N3O4
